US04506103
The process according to the invention can be carried out, for example, as follows: melted phenol, dibenzyl ether and γ-aluminum oxide are initially taken in a stirred apparatus equipped with a reflux condenser and a water separator. A suitable quantity of toluene is also added to the reaction mixture as an azeotrope-former. The reaction mixture is heated, while stirring, until a gentle reflux has been established. At the start of the reaction, the reaction temperature is about 170° C.; at the end of the reaction a temperature of approx. 190° C. is reached. The reaction is continued until approximately the theoretical quantity of reaction water has been discharged by means of the toluene. It is advantageous to follow the progress of the reaction, for example by gas chromatography. After the catalyst has been removed, for example by decanting or filtering, the reaction mixture is distilled in vacuo, and o-benzylphenol is obtained in a very high state of purity. It is also possible to carry out the vacuum distillation directly after the completion of the reaction, that is to say without previously removing the catalyst.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | dibenzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | o-benzylphenol | C(C1=CC=CC=C1)C1=C(C=CC=C1)O | C13H12O
